US03931235
A solution of 15.8 g. (0.100 mole) of 4-hydroxy-3-mercapto-6-methyl-2-pyrone in 100 ml. of pyridine was cooled in an ice bath to about 15°C., and 17.7 g. (0.100 mole) of 1-chloromethylnaphthalene was added in one portion. The flask was then heated at 90°-95°C. on the steam plate for four hours. The reaction mixture was cooled and poured into 200 ml. of concentrated hydrochloric acid and about 400 g. of ice. A gummy solid was formed and was extracted with methylene chloride. The wet extract was treated with Darco and dried over anhydrous sodium sulfate. The solvent was removed by evaporation in vacuo, leaving a brown gum, which was crystallized (Darco) from ethanol to give 9.8 g. (33 percent) of tan crystals m.p. 155.5°-157.5°C. Recrystallization from ethanol gave the pure 4-hydroxy-6-methyl-3-(1-naphthylmethylthio)-2-pyrone as cream colored crystals, m.p. 169.5°-170.5°C.

reactant | 4-hydroxy-3-mercapto-6-methyl-2-pyrone | 0.100 mole | OC1=C(C(OC(=C1)C)=O)S | C6H6O3S
reactant | 1-chloromethylnaphthalene | 0.100 mole | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-hydroxy-6-methyl-3-(1-naphthylmethylthio)-2-pyrone | OC1=C(C(OC(=C1)C)=O)SCC1=CC=CC2=CC=CC=C12 | C17H14O3S
